US04618627
A mixture of 0.8 g of 1-(3,4-dibenzyloxyphenyl)-1,8-nonanedione and 10 ml of tetrahydrofuran was added to a solution of 0.1 g of lithium aluminum hydride in 50 ml of ether under ice-cooling followed by stirring for 2 hours at room temperature. Then, 50 ml of toluene was added to the reaction mixture and the mixture was acidified by the addition of diluted hydrochloric acid. The toluene layer was collected, washed with an aqueous 5% sodium hydrogencarbonate solution, washed with water, dried over anhydrous magnesium carbonate, and concentrated under reduced pressure to provide 0.8 g of 1-(3,4-dibenzyloxyphenyl)-1,8-nonanediol as an oil.

reactant | 1-(3,4-dibenzyloxyphenyl)-1,8-nonanedione | 0.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C(CCCCCCC(C)=O)=O | C29H32O4
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3,4-dibenzyloxyphenyl)-1,8-nonanediol | 0.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C(CCCCCCC(C)O)O | C29H36O4
